US08710243B2
2-(3,5-dimethylisoxazol-4-yl)-3-(4-methoxyphenyl)-N,N-dimethyl-1H-indole-1-sulfonamide (23 mg, 0.05 mmol) was dissolved in DCM and the mixture was cooled at 0° C. BF3.SMe2 (0.7 ml) was added drop wise and the reaction mixture was stirred in the fridge for 16 h. A few drops MeOH were added to the cool mixture. The mixture was then extracted with H2O/DCM using an isolute phase separator. Concentration gave a crude product which was purified using HPLC (40-70% AcN, 25 min gradient). 5.6 mg 2-(3,5-dimethylisoxazol-4-yl)-3-(4-hydroxyphenyl)-N,N-dimethyl-1H-indole-1-sulfonamide was obtained. ES/MS m/z: 412.06 (M+H), 410.16 (M−H); 1H NMR (acetone-d6, 500 MHz): 8.18 (m, 1H), 7.60 (m, 1H), 7.43 (m, 1H), 7.34 (m, 1H), 7.12 (m, 2H), 6.88 (m, 2H), 2.70 (s, 6H), 2.10 (s, 3H) and 2.09 (s, 3H).

reactant | 2-(3,5-dimethylisoxazol-4-yl)-3-(4-methoxyphenyl)-N,N-dimethyl-1H-indole-1-sulfonamide | 0.05 mmol, 23 mg | CC1=NOC(=C1C=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)OC)S(=O)(=O)N(C)C)C | C22H23N3O4S
reactant | BF3 | B(F)(F)F | BF3
reactant | SMe2 | 0.7 ml | S(C)C | C2H6S
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | MeOH | A few drops | CO | CH4O
product | 2-(3,5-dimethylisoxazol-4-yl)-3-(4-hydroxyphenyl)-N,N-dimethyl-1H-indole-1-sulfonamide | 5.6 mg | CC1=NOC(=C1C=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)O)S(=O)(=O)N(C)C)C | C21H21N3O4S
